datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"N#CCCNC(CC(N)=O)C(=O)[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>N#CCCNC(CC(N)=O)C(=O)[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)=[O+:21][H:20].O=Cc1ccccc1[O-:10]>>CC(C)=[O:21].O=Cc1ccccc1[O:10][H:20] 10=20;20,21=21",
"CC[SH+]C(C)[O:21][H:20].COCC[N:10](CCOC)c1ccccc1>>CC[SH+]C(C)[O-:21].COCC[N+:10](CCOC)(c1ccccc1)[H:20] 10=20;20,21=21",
"C/C(=C\C=C\C(C)C(=O)[O:21][H:20])[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].O=C(c1cnoc1)[O-:10]>>C/C(=C\C=C\C(C)C(=O)[O-:21])[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].O=C(c1cnoc1)[O:10][H:20] 10=20;20,21=21",
"C[NH+](C)c1ccc([NH2+:21][H:20])cc1.c1ccc(-c2ccc3ncc(C[N:10]4CCOCC4)n3n2)cc1>>C[NH+](C)c1ccc([NH2:21])cc1.c1ccc(-c2ccc3ncc(C[N+:10]4([H:20])CCOCC4)n3n2)cc1 10=20;20,21=21",
"C[NH:10]C(CO)CO.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+:10](C(CO)CO)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N:10]1C[C@H](C(=O)[O-])C[C@@H]2c3cccc4[nH]cc(c34)C[C@@H]21.Nc1c2ccccc2cc[n+:21]1[H:20]>>C[N+:10]1([H:20])C[C@H](C(=O)[O-])C[C@@H]2c3cccc4[nH]cc(c34)C[C@@H]21.Nc1c2ccccc2cc[n:21]1 10=20;20,21=21",
"COc1cccc([NH2+:21][H:20])c1.NC1=CC(=[NH:10])c2ccccc2C1=O>>COc1cccc([NH2:21])c1.NC1=CC(=[NH+:10][H:20])c2ccccc2C1=O 10=20;20,21=21",
"[H:20][NH2+:21]CCOC.C[N+]1=CC=C(C=C1)[CH-:10]S(=O)(=O)C2=CC=CC=C2>>[H:20][CH:10](C1=CC=[N+](C=C1)C)S(=O)(=O)C2=CC=CC=C2.COCC[NH2:21] 10=20;20,21=21",
"C=CC[N:10](CC1CO1)CC1CO1.COc1c(C=O)c(CO)c[n+:21]([H:20])c1C>>C=CC[N+:10](CC1CO1)(CC1CO1)[H:20].COc1c(C=O)c(CO)c[n:21]c1C 10=20;20,21=21",
"CC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=CC=C2)[H:20])C=C1>>CC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C[NH+]1CCC(n2nc(-c3ccccc3)c(Cc3ccccc3)c2[O-:10])CC1.Cc1cc([O-])[n+](C)c([O-])[n+:21]1[H:20]>>C[NH+]1CCC(n2nc(-c3ccccc3)c(Cc3ccccc3)c2[O:10][H:20])CC1.Cc1cc([O-])[n+](C)c([O-])[n:21]1 10=20;20,21=21",
"CC[N:10](CC)CCN.Clc1cnc2c(ccc3ccc[n+:21]([H:20])c32)c1>>CC[N+:10](CC)(CCN)[H:20].Clc1cnc2c(ccc3ccc[n:21]c32)c1 10=20;20,21=21",
"O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1ccncc1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1ccncc1)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"O=C([O-])CCCCCCCCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>O=C([O-])CCCCCCCCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC=C1C[N+:21]2([H:20])CC[C@]34C(=C(C(=O)OC)[C@H]1C[C@@H]32)Nc1ccccc14.CCN(CC)c1nnn[n-:10]1>>CC=C1C[N:21]2CC[C@]34C(=C(C(=O)OC)[C@H]1C[C@@H]32)Nc1ccccc14.CCN(CC)c1nnn[n:10]1[H:20] 10=20;20,21=21",
"O=C1C[C@H]2OCC=C3C[N:10]4CC[C@@]56c7ccccc7N1[C@@H]5[C@@H]2[C@@H]3C[C@H]64.O=P(O)(O)[O:21][H:20]>>O=C1C[C@H]2OCC=C3C[N+:10]4([H:20])CC[C@@]56c7ccccc7N1[C@@H]5[C@@H]2[C@@H]3C[C@H]64.O=P(O)(O)[O-:21] 10=20;20,21=21",
"C#C[C@]1(O)C[C@H](C)[NH:10][C@@H]2CCCC[C@H]21.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>C#C[C@]1(O)C[C@H](C)[NH+:10]([H:20])[C@@H]2CCCC[C@H]21.C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Cc1ccc2c(c1)N1CC[N:10]2CC1.Cc1nc(N)c2cn[n:21]([H:20])c2n1>>Cc1ccc2c(c1)N1CC[N+:10]2([H:20])CC1.Cc1nc(N)c2cn[n-:21]c2n1 10=20;20,21=21",
"CCc1c[n:10]ccc1N.c1ccc(CSc2cccc[n+:21]2[H:20])cc1>>CCc1c[n+:10]([H:20])ccc1N.c1ccc(CSc2cccc[n:21]2)cc1 10=20;20,21=21",
"CC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C1C(Cc2ccccc2)=C([O-:10])C(=O)c2ccccc21.c1ccc2n[nH+]c([O:21][H:20])cc2c1>>O=C1C(Cc2ccccc2)=C([O:10][H:20])C(=O)c2ccccc21.c1ccc2n[nH+]c([O-:21])cc2c1 10=20;20,21=21",
"CCCNc1cc[n+:21]([H:20])cc1S(=O)(=O)NC(=O)NC(C)C.Clc1ccc2[nH]c[n:10]c2c1>>CCCNc1cc[n:21]cc1S(=O)(=O)NC(=O)NC(C)C.Clc1ccc2[nH]c[n+:10]([H:20])c2c1 10=20;20,21=21",
"CCCCNc1c(C)cc(-c2ccccc2)n[n+:21]1[H:20].Cc1cc(N)nc(Nc2ccc(Cl)cc2)[n:10]1>>CCCCNc1c(C)cc(-c2ccccc2)n[n:21]1.Cc1cc(N)nc(Nc2ccc(Cl)cc2)[n+:10]1[H:20] 10=20;20,21=21",
"CCCCCCCCCCCC(=O)[O:21][H:20].O=C(c1ccccc1/N=C/C=C/c1ccccc1)[O-:10]>>CCCCCCCCCCCC(=O)[O-:21].O=C(c1ccccc1/N=C/C=C/c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"CC[N:10](CC)CC(=O)NC1c2ccccc2-c2ccccc21.COc1ccc(-c2oc(-c3ccc([NH3+])cc3)c[n+:21]2[H:20])cc1>>CC[N+:10](CC)(CC(=O)NC1c2ccccc2-c2ccccc21)[H:20].COc1ccc(-c2oc(-c3ccc([NH3+])cc3)c[n:21]2)cc1 10=20;20,21=21",
"Cc1[nH]cc[n:10]1.O=C(c1ccccc1)c1cc[n:21]([H:20])n1>>Cc1[nH]cc[n+:10]1[H:20].O=C(c1ccccc1)c1cc[n-:21]n1 10=20;20,21=21",
"COc1ccc(-c2ncc(-c3ccc([NH2:10])cc3)o2)cc1.Cc1cc(C)n(-c2cc(C)n(C)[n+:21]2[H:20])n1>>COc1ccc(-c2ncc(-c3ccc([NH2+:10][H:20])cc3)o2)cc1.Cc1cc(C)n(-c2cc(C)n(C)[n:21]2)n1 10=20;20,21=21",
"COC(=O)C1=CCC[NH:10]C1.COc1ccc(/C=C/C(=O)[O:21][H:20])cc1>>COC(=O)C1=CCC[NH+:10]([H:20])C1.COc1ccc(/C=C/C(=O)[O-:21])cc1 10=20;20,21=21",
"CCOC(=O)/C(=N/[O:21][H:20])c1ccccc1.CN(C)c1ncc2c(nc[n-:10]2)n1>>CCOC(=O)/C(=N/[O-:21])c1ccccc1.CN(C)c1ncc2c(nc[n:10]2[H:20])n1 10=20;20,21=21",
"C1CNCC[NH:10]CCN1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C1CNCC[NH+:10]([H:20])CCN1.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
